US04921785
Step 2: Synthesis of 2-(4-Chloro-3-nitrobenzenesulfonyl)ethanol
40 g of 4-Chloro-3-nitrobenzenesulfinic acid, 27.8 g of potassium carbonate, 24.8 g of 2-bromoethanol and 200 ml of dimethylformamide were mixed together and reacted at 50° C. for a period of 8 hours. The reaction mixture was then poured into of water and extracted with ethyl acetate. The organic layer was recovered and the solvent was removed by distillation under reduced pressure. The oily residue was refined using silica gel short-column chromatography to obtain an oily product.

reactant | 4-Chloro-3-nitrobenzenesulfinic acid | 40 g | ClC1=C(C=C(C=C1)S(=O)O)[N+](=O)[O-] | C6H4ClNO4S
reactant | potassium carbonate | 27.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-bromoethanol | 24.8 g | BrCCO | C2H5BrO
reactant | dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 2-(4-Chloro-3-nitrobenzenesulfonyl)ethanol | ClC1=C(C=C(C=C1)S(=O)(=O)CCO)[N+](=O)[O-] | C8H8ClNO5S
